US06469020B2
4-(2-Acetylsulfanyl-1-carboxy-ethyl)-piperidine-1-carboxylic Acid Benzyl Ester
4-(1-Carboxy-vinyl)-piperidine-1-carboxylic acid benzyl ester (15.6 g) was dissolved in thioacetic acid (15 ml) and heated to reflux for 3 h. The thioacetic acid was evaporated under reduced pressure and azeotroped with 1:1 hexane-dichloromethane (4×30 ml) to give the title compound (20.32 g, 95%) as an orange oil.

reactant | 4-(1-Carboxy-vinyl)-piperidine-1-carboxylic acid benzyl ester | 15.6 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=C)C(=O)O | C16H19NO4
reactant | thioacetic acid | 15 ml | C(C)(=S)O | C2H4OS
product | 4-(2-Acetylsulfanyl-1-carboxy-ethyl)-piperidine-1-carboxylic Acid Benzyl Ester | 20.32 g, 95% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(CSC(C)=O)C(=O)O | C18H23NO5S
